US04162264
Into a 0.15 l four-neck flask provided with a thermometer, stirrer, gas-supply pipe and a cooler there are charged 33.07 g (0.15 mole) of diphenylchlorophosphine and 18.37 g (0.15 mole) of ethyl ester of chloroacetic acid. The flask contents are purged with nitrogen and cooled to the temperature of -5° C. Thereafter, a mixture of ethylene oxide and nitrogen in the ratio of 1:1 is bubbled into the solution at a temperature of the reaction mixture of from -5° to +5° C. After addition of 6.6 g (0.15 mole) of ethylene oxide and completion of the reaction, the temperature is slowly elevated to 140° C. simultaneously distilling-off dichloroethane. In doing so, ethyl ester of diphenylphosphinylacetic acid is formed.

reactant | diphenylchlorophosphine | 0.15 mole, 33.07 g | C1(=CC=CC=C1)P(Cl)C1=CC=CC=C1 | C12H10ClP
reactant | ethyl ester of chloroacetic acid | 0.15 mole, 18.37 g | CCOC(=O)CCl | C4H7ClO2
reactant | ethylene oxide | 0.15 mole, 6.6 g | C1CO1 | C2H4O
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | diphenylphosphinylacetic acid | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)CC(=O)O | C14H13O3P
